US05041455
B. 3-(4-(2-propenyloxy)-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide
A mixture of methyl iodide (0.4 ml, 6 mmol) and 3-(4-(2-propenyloxy)-1,2,5-thiadiazol-3-yl)pyridine (3 mmol) in acetone (5 ml) was stirred at room temperature for 18 h. The title compound precipitiated from the solution and was collected by filtration to give 0.96 g (88%).

reactant | methyl iodide | 6 mmol, 0.4 ml | CI | CH3I
reactant | 3-(4-(2-propenyloxy)-1,2,5-thiadiazol-3-yl)pyridine | 3 mmol | C(C=C)OC=1C(=NSN1)C=1C=NC=CC1 | C10H9N3OS
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 3-(4-(2-propenyloxy)-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide | [I-].C(C=C)OC=1C(=NSN1)C=1C=[N+](C=CC1)C | InChI=1S/C11H12N3OS.HI/c1-3-7-15-11-10(12-16-13-11)9-5-4-6-14(2)8-9;/h3-6,8H,1,7H2,2H3;1H/q+1;/p-1
